data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8623,"C1=CC=C([CH2:1][Br:2])C=C1.CN(C)[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6395,"C=CC#[N:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9094,"C(=CC1=CC=C(OCCCCC2=CNC=N2)C=C1)=[CH+:1].C1=CC=C([C+](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCO.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5181,"C=CC(C(OCC)OCC)[O-:1].CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH2]CCC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,5502,"CC(C)[CH2][Al-:1]([OH])([CH2]C(C)C)[OH+:2]C(C=CC1=CC=CC=C1)C1=CC=CC=C1.O|((1, 2), 2)"
train,pmechdb_split_0,0,7898,"CC(C)[O-].CCCC1CCCC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2885,"CC(=O)[O-:1].CC=N[O+:2](C(C)([O-])OC(C)=O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3180,"C#CC[Si](C)(C)C.CCOC(=O)[N:1](CC1=CC=CC=C1)[CH:2](C1=CC=CC=C1)[O+:3](CC)[Sn-]([Cl])([Cl])([Cl])[Cl]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3990,"COC(=O)N1CCC2C=CC(O)C(CCO[Si](C)(C)C(C)(C)C)C21.CO[C:1](C)([N:2](C)C)[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2730,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,6912,"CCO[C:1](CC)=[NH2+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9847,"CC[O-:1].COC(=O)[CH:2]([H:3])[C:4](CC1=CC=CC=C1)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5924,"CCC[C:1](OC1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4081,"CCC(C)C([NH3+])C(O)=[O:1].CO.[Cl-].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8954,"C1=CC=[N:1]C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.IC1=CN(C2CCC(=[O+:2][H:3])CC2)N=C1.O.OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1314,"CC(C)=C[CH2:1][OH2+:2].CC1=C[C:3]([OH:4])=[CH:5]C(O)=C1.O|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8744,"C1CC1C[NH+]=N[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8406,"C1=CCC2CCC(C1)C2=N[O:1][H:2].CC1=CC=C(S(=O)(=O)Cl)C=C1.[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4657,"C1=CN=C([CH2:1][H:2])C=C1.[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3646,"CC(C)(C)OC(=O)NCCCCC(NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2)[C:1](OC(=NC1CCCCC1)NC1CCCCC1)=[O:2].COC1=CC=C(COC(=O)C(CC2=CNC3=CC=CC=C23)[NH2:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7038,"C[Si-](C)(C)(F)C[CH:1]=[CH2:2].[CH2:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,589,"C1=CNC=N1.CC(C)O.CN(C)C=[O+][Si-:1](C)(C)(C(C)(C)C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2209,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)N(C)C1O)C[Si](C)(C)C.CC1CC2C(CC3(C)C(O)CC4C(C=CC4(C)C)C23O)C1OCC1=CC=CC=C1.CCC1C(CCCCO)C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.CC[NH+](C(C)C)C(C)C.CC[NH+](CC)CC.O=[S:1](=O)([CH2-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3758,"CC[N:1](CC)CC.O=P(Cl)(Cl)Cl.O=[N+]([O-])C1=C([O:2][H:3])N=C2C=CC=CC2=C1O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9839,"C=C[C:1](OC(C)=O)=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5098,"C[OH+:1][H:2].O=CC1([OH:3])CC2=C(OCC2)C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4011,"C1=CC=[NH+]C=C1.CC1(C)CCCC2(C)C1C(O[Si](C)(C)C(C)(C)C)C=C(CO[Si](C)(C)C(C)(C)C)C2(O)[CH:1]([H:2])[O:3][S+:4](C)[CH2-:5].O=C([O-])C(F)(F)F|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5749,"CC(Br)C(C)(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1931,"C1CC[N:1]([CH:2]=[CH2:3])CC1.CC[CH:4](C)[Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7248,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]C[C:3]2=[CH:4][C:5](C)=[C:6]([O:7]C)C=C2)C=C1.O=CO|(7, 6);((6, 5), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7976,"CC(C=O)=CCCC(C)C[CH:1]([N:2](C)C1=CC=CC=C1)[OH2+:3].CNC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2565,"C[O:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7224,"COCOC1CC2C(C[N:1](C)[CH:2]=[CH:3]2)C12COC(=O)N2.O=C(O[C:4](C(F)(F)F)=[O:5])C(F)(F)F|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5116,"CC(C)[O-].CCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2CCCCC2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,887,"C=C.C=C[O+:1]([Si](C)(C)C)[Li:2].CCCC.[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,8412,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCCCC([N-][N+:2]#[N:3])C(=O)OCCC.[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9793,"CC[C+:1](C)C.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,925,"CC(=CC[C:1](C1=C(OCC2=CC=CC=C2)C=CC(Cl)=C1)=[O:2])[NH:3]C1=CC(S(N)(=O)=O)=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,694,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5CC2CC2)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8879,"CC1=C(CCO)SC(C(C2=CC=CC=C2)[O-:1])=[N+]1C.CCO.CC[N+:2](CC)(CC)[H:3].N#CC1=CC=C(C=CC(=O)C2=CC=CS2)C=C1.[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3106,"C[Si](C)(C)OCCO[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,735,"N#CC=[N-:1].N#[C:2][H:3]|(1, 3);((3, 2), 2)"
